US04656181
12.28 g (0.03 moles) of 2-(4-acetylaminophenoxy)ethyl 2-(3-nitrobenzylidene)acetylacetate and 3.85 g (0.03 moles) of ethyl 3-aminocrotonate are heated under reflux in 30 ml of ethanol for 8 hours. The solution is then cooled to -5° C. to obtain 2-(4-acetylaminophenoxy)ethyl 2,6-dimethyl-5-ethoxycarbonyl-4-(3-nitrophenyl)-1,4dihydropyridine-3-carboxylate as yellow crystals melting--after recrystallisation in ethanol--at 198°-200° C. The yield is 75% of the theoretical yield.

reactant | 2-(4-acetylaminophenoxy)ethyl 2-(3-nitrobenzylidene)acetylacetate | 0.03 moles, 12.28 g | [N+](=O)([O-])C=1C=C(C=CC(=O)CC(=O)OCCOC2=CC=C(C=C2)NC(C)=O)C=CC1 | C21H20N2O7
reactant | ethyl 3-aminocrotonate | 0.03 moles, 3.85 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(4-acetylaminophenoxy)ethyl 2,6-dimethyl-5-ethoxycarbonyl-4-(3-nitrophenyl)-1,4dihydropyridine-3-carboxylate | yield is 75% | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=C(C=C1)NC(C)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C27H29N3O8
